US04550105
In 10 ml of N,N-dimethylformamide is dissolved 4.62 g of methyl 2-(2-amino-4-thiazolyl)-(Z)-2-hydroxyiminoacetate, followed by addition of 3 ml of triethylamine. Then, under stirring at -30° C., 6.42 g of trityl chloride is added over one hour. The mixture is further stirred at that temperature for one hour and, then at 15° C. for an additional 2 hours. To this reaction mixture is added 200 ml of water, followed by extraction with 200 ml of ethyl acetate. The ethyl acetate extract is washed twice with 200 ml portions of water and dried over anhydrous sodium sulfate. The solvent is then distilled off. The residue is purified by column chromatography [silica gel: 100 g; eluent: hexane-ethyl acetate (1:1)] and the resultant crystals are recrystallized from ethyl acetate to give methyl 2-(2-tritylamino-4-thiazolyl)-(Z)-2-hydroxyiminoacetate as colorless granules, m.p. 204°-205° C.

reactant | methyl 2-(2-amino-4-thiazolyl)-(Z)-2-hydroxyiminoacetate | 4.62 g | NC=1SC=C(N1)/C(/C(=O)OC)=N/O | C6H7N3O3S
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 6.42 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2-tritylamino-4-thiazolyl)-(Z)-2-hydroxyiminoacetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OC)=N/O | C25H21N3O3S
